US07585881B2
2-Bromo-3-isopropoxy-propenal
A mixture of 2-bromomalonaldehyde, para-toluenesulfonic acid monohydrate, 2-propanol and cyclohexane were stirred at 86° C. in flask with a dean-stark trap under azeotropic conditions. Further distillation removed another 40% of the original solvent volume. The mixture was cooled to 0° C., then concentrated in-vacuo, to isolate the title compound (13.2 g). 1H-NMR: 9.16 (s, 1H), 7.65 (s, 1H), 4.51 (m, 1H), 1.47 (d, 6H).

reactant | 2-bromomalonaldehyde | BrC(C=O)C=O | C3H3BrO2
reactant | para-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 2-propanol | CC(C)O | C3H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 2-Bromo-3-isopropoxy-propenal | 13.2 g | BrC(C=O)=COC(C)C | C6H9BrO2
